data/mechanisms/records/IMS8-EQ8.44a.json
{"mechanism_id": "IMS8-EQ8.44a", "species": [{"species_id": "oxocarbenium_carbenium_form", "mapped_smiles": "[CH3:1][CH2:2][O:3][CH2+:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[O:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["oxocarbenium_carbenium_form"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "formaldehyde_neutral"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 173, "equation": "8.44", "figure": null, "panel": null, "section": "8.8 Charge-site reactions (one bond cleaved without rearrangement)"}, "confidence": 0.7, "curator_note": "GENERIC SCHEME, upper (all-single-bond) form of eq 8.44. The book braces the two drawn forms together as resonance depictions of ONE even-electron ion (EE+); this record encodes the upper form AB-C-D with the charge (+) on the saturated terminal atom D and a full arrow labelled 'i' to AB+ + C=D. No atoms, m/z or intensities are printed. Instantiation chosen by the curator: the ethyl oxocarbenium ion drawn in its localized carbenium resonance form CH3CH2-O-CH2+ (map 3 = C-of-scheme = O, neutral, single-bonded; map 4 = D = terminal CH2 carbenium carrying the +; AB = ethyl, maps 1-2). Inductive cleavage: the CH2-O sigma bond (bond 2-3) breaks and its pair forms the new C=D (O=CH2) pi bond (bond 3-4), expelling the ethyl cation CH3CH2+ (AB+, charge migrates from D to AB) and neutral formaldehyde O=CH2 (C=D). ARC COUNT: the book draws 1 arc (a single full/double-barbed arrow from the AB-C sigma bond onto the C-D bond); move <1> IS that drawn arc, a single 2-electron sigma->pi move that fully accounts for the electron flow. The companion lower form is encoded as IMS8-EQ8.44b."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 59.0491, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ab_cation", "species_id": "ethyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 29.0386, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
